US03953500
To 500 g. of polyphosphoric acid is added 22.4 g. of ethyl 1-cyano-1,2,3,4-tetrahydro-5-naphthoate and the mixture is stirred at 90°-100°C for 2 hours. Then, 1 l. of water is added, followed by cooling. The resultant crystals are collected by filtration, washed with water and recrystallized from ethanol. The procedure gives ethyl 1-carbamoyl-1,2,3,4-tetrahydro-5-naphthoate, melting point: 159.5°-161.5°C.

reactant | ethyl 1-cyano-1,2,3,4-tetrahydro-5-naphthoate | C(#N)C1CCCC=2C(=CC=CC12)C(=O)OCC | C14H15NO2
reactant | water | O | H2O
product | ethyl 1-carbamoyl-1,2,3,4-tetrahydro-5-naphthoate | C(N)(=O)C1CCCC=2C(=CC=CC12)C(=O)OCC | C14H17NO3
